Name:  ___         Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
right sided abd pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ w/history of mild anemia presenting with fever and flank 
pain. She reports relatively sudden onset of R sided flank pain 
and fevers (tmax 104 at home) and chills over 2 days prior to 
admission. R flank/ruq pain was without exacerbating factors 
(non-pleuritic, not associated with foods), relieved by 
acetaminophen and ibuprofen. Had emesis x1. No urinary sx. Given 
severity of pain/fever, she decided to come to the ED.

In the ED, initial vitals:  VS: 100.1 110/57 122 17 96RA. 
Exam: Laying in bed comfortably. CTAB. RRR, no r/m/g. NABS, 
abdomen soft, RUQ and right-sided flank pain, no CVA tenderness, 
no HSM. Extremities warm. 

Labs were significant for:  
21.4>10.0<214

134 | 100 | 13
---------------<141
3.5 | 21  | 1.0
ALT 35 AST 31 AP 48 Tbili 0.7 Alb 3.5
Lactate 1.0
Flu negative
UA: >182 WBC, Few bacteria, neg nitr, 12 RBC
Imaging showed:  
--Point of care RUQ US: normal gallbladder, no CBD dilation
--CTU: 
1. Right pyelonephritis. 
2. Small right pleural effusion and small volume ascites, 
nonspecific may reflect aggressive hydration versus third 
spacing. 
--CXR: No acute intrathoracic process.

In the ED, pt received: Apap, ibuprofen, NS, Zofran, CXR 2g x1 
@2040 ___. Ultimately found to have GNRs in blood and was 
admitted.  

Vitals prior to transfer: 98.7 97/49 92 17 98/RA 

Currently, she continues to have itermittent fevers/chills. 
Tolerating POs. Still having R sided flank pain. Feels like 
belly is distended from all the IVF. 

Upon further questioning: no history of frequent UTIs. Had a UTI 
in ___ for which she took an antibiotic in ___. Had 
another UTI ___, treated with a 5-day course of 
nitrofurantoin. 
 
ROS:  
No fevers, chills, night sweats, or weight changes. No changes 
in vision or hearing, no changes in balance. No cough, no 
shortness of breath, no dyspnea on exertion. No chest pain or 
palpitations. No nausea or vomiting. No diarrhea or 
constipation. No dysuria or hematuria. No hematochezia, no 
melena. No numbness or weakness, no focal deficits.  
 
 
Past Medical History:
anemia
vitamin D deficiency 
lactose intolerance
 
Social History:
___
Family History:
HLD, HTN, DM in Father 

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS:  98.3 PO 106 / 69 R Lying 98 22 100 Ra 
GEN: Alert, lying in bed, shivering
HEENT: Moist MM, anicteric sclerae, no conjunctival pallor  
NECK: Supple without LAD  
PULM: Generally CTA b/l without wheeze or rhonchi  
COR: RRR (+)S1/S2 no m/r/g  
BACK: + R sided CVAT
ABD: Soft, tender RUQ and right flank, some guarding
EXTREM: Warm, well-perfused, trace edema
NEURO: CN II-XII grossly intact, motor function grossly normal  

DISCHARGE PHYSICAL EXAM: 
98.6 PO 102 / 65 L Lying 93 18 ___ at ___ 101.5 at 8am
___ and ___ no fevers
GEN: Alert, lying in bed, overall well appearing
HEENT: Moist MM, anicteric sclerae, no conjunctival pallor  
NECK: Supple without LAD  
PULM: Generally CTA b/l without wheeze or rhonchi  
COR: RRR (+)S1/S2 no m/r/g  
BACK: no significant R sided CVAT
ABD: Soft, midlly tender in RUQ and right lower flank. mildly 
distended
EXTREM: Warm, well-perfused, trace edema
NEURO: CN II-XII grossly intact, motor function grossly normal
 
Pertinent Results:
ADMISSION LABS

___ 05:50PM URINE  MUCOUS-RARE
___ 05:50PM URINE  RBC-12* WBC->182* BACTERIA-FEW 
YEAST-NONE EPI-9
___ 05:50PM URINE  BLOOD-SM  NITRITE-NEG PROTEIN-100 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-LG
___ 05:50PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 05:50PM URINE  UCG-NEGATIVE
___ 05:50PM URINE  HOURS-RANDOM
___ 08:00PM   PLT SMR-NORMAL PLT COUNT-214
___ 08:00PM   HYPOCHROM-NORMAL ANISOCYT-NORMAL 
POIKILOCY-NORMAL MACROCYT-NORMAL MICROCYT-NORMAL 
POLYCHROM-NORMAL
___ 08:00PM   NEUTS-87* BANDS-3 LYMPHS-4* MONOS-5 EOS-0 
BASOS-1 ___ MYELOS-0 AbsNeut-19.26* AbsLymp-0.86* 
AbsMono-1.07* AbsEos-0.00* AbsBaso-0.21*
___ 08:00PM   WBC-21.4*# RBC-3.55* HGB-10.0* HCT-30.4* 
MCV-86 MCH-28.2 MCHC-32.9 RDW-12.9 RDWSD-40.8
___ 08:00PM   LACTATE-1.0
___ 08:00PM OTHER BODY FLUID  FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE
___ 08:00PM   ALBUMIN-3.5
___ 08:00PM   LIPASE-21
___ 08:00PM   ALT(SGPT)-35 AST(SGOT)-31 ALK PHOS-48 TOT 
BILI-0.7
___ 08:00PM   estGFR-Using this
___ 08:00PM   GLUCOSE-141* UREA N-13 CREAT-1.0 SODIUM-134 
POTASSIUM-3.5 CHLORIDE-100 TOTAL CO2-21* ANION GAP-17

MICRO

___ 8:25 pm BLOOD CULTURE

   Blood Culture, Routine (Preliminary): 
      ESCHERICHIA COLI. 
         FINAL SENSITIVITIES. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

   Anaerobic Bottle Gram Stain (Final ___: 
      GRAM NEGATIVE ROD(S). 
      Reported to and read back by ___ ___ (___), 
@14:35 ON
      ___. 

___ 5:50 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL.  PRESUMPTIVE 
IDENTIFICATION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--    16 I
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

IMAGING:

CTU ___. Right pyelonephritis.  No renal/ureteral stone or 
hydronephrosis.
2. Small right pleural effusion and small volume ascites, 
nonspecific may
reflect aggressive hydration versus third spacing.
 
DISCHARGE LABS:
___ 06:05AM BLOOD WBC-4.8 RBC-3.25* Hgb-9.2* Hct-28.1* 
MCV-87 MCH-28.3 MCHC-32.7 RDW-13.8 RDWSD-43.8 Plt ___
___ 06:05AM BLOOD Glucose-95 UreaN-5* Creat-0.8 Na-138 
K-3.8 Cl-103 HCO3-25 AnGap-___ PMH anemia presenting with fever and flank pain. 

#pyelonephritis
#GNR bacteremia
She presented with severe R sided flank pain and fevers to 104 
at home.  In the ED, she was found to have a positive UA and was 
started on ceftriaxone for presumed pyelonephritis. Underwent  
CTU to ensure there was no stone, and this confirmed  R sided 
pyelonephritis with no nephrolithiasis. She was started on IV 
ceftriaxone. Her blood culture from the day of admission came 
back with GNRs in the blood and CTX dosing was increased to 2 g 
daily. Blood/urine cultures resulted as e coli resistant only to 
ampicillin. She remained febrile until ___ after which she 
defervseced. Continued on IV antibiotics until 48 hours afebrile 
after which she was changed to PO cipro and discharged to 
complete a 2 week course from the day of the first negative 
blood culture (___). 

TRANSITIONAL ISSUES:
[] complete a 2 week total course of cipro. Last day ___.
[] Anemia: Patient anemic to 10.0 on admission from baseline 
___. Normocytic. Previously evaluated as having iron 
deficiency and low normal B12 and low normal folate, although 
recent Fe, B12, and folate studies are reasonably WNL. Acute 
anemia likely ___ infection. Recheck as outpt, consider 
additional w/u for iron deficiency anemia vs starting PO iron. 
Not started at discharge due to constipation while inpatient.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Altavera (28) (levonorgestrel-ethinyl estrad) 0.15-0.03 mg 
oral DAILY 
2. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
continue up to and including ___ 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*22 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*30 Capsule Refills:*0 
3.  Senna 8.6 mg PO BID 
RX *sennosides [senna] 8.6 mg 1 tab by mouth twice a day Disp 
#*30 Tablet Refills:*0 
4.  Altavera (28) (levonorgestrel-ethinyl estrad) 0.15-0.03 mg 
oral DAILY  
5.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
Pyelonephritis
e coli bacteremia

SECONDARY DIAGNOSES
anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___:

You were admitted to ___ with a urinary tract infection that 
traveled up to your kidneys. This is called pyelonephritis. You 
also had bacteria in your blood due to this infection.  You were 
treated with fluids, IV antibiotics, and meds for constipation.

When you leave please continue to take the medication 
ciprofloxacin for a total of 2 week course. You will continue to 
take the medication up to and including the ___. 

It was a pleasure to care for you,
Your ___ Team
 
Followup Instructions:
___